US03981932
To a solution of 0.01 moles of ethyl 3-amino-4-cyclohexylphenylglyoxylate in 100 ml. of pyridine is added 0.1 moles of methyl iodide. The reaction mixture is stirred overnight at room temperature, filtered and concentrated. The residue is distilled to obtain ethyl 3-methylamino-4-cyclohexylphenylglyoxylate.

reactant | ethyl 3-amino-4-cyclohexylphenylglyoxylate | 0.01 moles | NC=1C=C(C=CC1C1CCCCC1)C(C(=O)OCC)=O | C16H21NO3
reactant | methyl iodide | 0.1 moles | CI | CH3I
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | ethyl 3-methylamino-4-cyclohexylphenylglyoxylate | CNC=1C=C(C=CC1C1CCCCC1)C(C(=O)OCC)=O | C17H23NO3
